US06005116
(a) 3-(2-(-tert-Butoxycarbonylamino)ethoxy)-5-(2-thienyl)isoxazole
3-Hydroxy-5-(2-thienyl)isoxazole (0.42 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.40 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 1(a) to obtain the title compound (0.63 g, 82%) as colorless crystals.

reactant | 3-Hydroxy-5-(2-thienyl)isoxazole | 0.42 g | OC1=NOC(=C1)C=1SC=CC1 | C7H5NO2S
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.40 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(-tert-Butoxycarbonylamino)ethoxy)-5-(2-thienyl)isoxazole | 0.63 g, 82% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C=1SC=CC1 | C14H18N2O4S
